US07700641B2
Synthesis of 4′-(3-furyl)-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4, and making non-critical variations using 4′-bromo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one to replace 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 3-furylboronic acid to replace [6-(dimethylamino)pyridin-3-yl]boronic acid, the title compound was obtained (27%) as a colorless solid: mp 167-169° C.; 1H NMR (300 MHz, CDCl3) δ 7.34-7.29 (m, 2H), 7.01 (dd, 1H), 6.95 (dd, 1H), 6.77 (dd, 1H), 6.74 (dd, 1H), 6.51 (s, 1H), 6.41 (d, 1H), 6.34 (s, 1H), 6.00 (dd, 1H), 4.97 (ABq, 2H), 4.67 (ABq, 2H), 4.56 (t, 2H), 3.01 (t, 2H); MS (ES+) m/z 494.4 (M+1).

reactant | 4′-bromo-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)C1=C(OC3)C=C3OCCC3=C1 | C23H15BrF3NO4
reactant | 4′-bromo-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | 3-furylboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | [6-(dimethylamino)pyridin-3-yl]boronic acid | CN(C1=CC=C(C=N1)B(O)O)C | C7H11BN2O2
product | 4′-(3-furyl)-1′-{[5-(trifluoromethyl)-2-furyl]methyl}-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | O1C=C(C=C1)C1=C2C3(C(N(C2=CC=C1)CC=1OC(=CC1)C(F)(F)F)=O)C1=C(OC3)C=C3OCCC3=C1 | C27H18F3NO5
